US05334576
A solution of 75.0 g (0.41 m) of 5-methyl-2,3-pyridinedicarboxylic acid in 500 mL of 1,2-dimethoxyethane is treated with 125 g acetic anhydride (1.2 m) and 81 g pyridine (1.02 m). The resulting solution is stirred for 18 hours at room temperature. The solution is stripped in vacuo to leave 70.3 g (100%) of 5-methyl-2,3-pyridinedicarboxylic acid anhydride. The anhydride is dissolved in 500 mL CCl4 and is treated with 1 g AIBN and 240 g (150 mL, 1.8 m) SO2Cl2 at room temperature. The solution is heated to reflux for 2 hours. An additional 1.0 g AIBN and 80 g (50 mL 0.6 m) SO2Cl2 are added and refluxing continued for an additional 2 hours. The solution, with some suspended solids, is cooled to 15° in an icebath and filtered to leave 56.0 g (69%) of a yellow solid: 5-chloromethyl-2,3-pyridinedicarboxylic anhydride (78% by nmr) mp (softens at 90° C.) 141°-145° C. Alternatively, the product can be hydrolyzed to give 5-chloromethyl-2,3-pyridinedicarboxylic acid, mp 170°-172°, from which the anhydride can be reformed by standard methods (see Example 6).

reactant | 5-methyl-2,3-pyridinedicarboxylic acid | 75.0 g | CC=1C=C(C(=NC1)C(=O)O)C(=O)O | C8H7NO4
reactant | acetic anhydride | 125 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 81 g | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dimethoxyethane | 500 mL | COCCOC | C4H10O2
product | 5-methyl-2,3-pyridinedicarboxylic acid anhydride | 70.3 g, 100% | CC=1C=C2C(=NC1)C(=O)OC2=O | C8H5NO3
